US05843967
6-Benzyloxycarbonylamino-quinoline
13.0 ml (76.28 mmol) of benzyl chloroformate are added dropwise to a stirred solution, cooled to 0° C. of 10.0 g (69.36 mmol) of 6-aminoquinoline in 160 ml of water and 80 ml of THF in the course of 30 minutes, the pH being kept at 10 by simultaneous addition of a 4N NaOH solution. The mixture is subsequently stirred at 0° C. for a further 2 hours, the THF is evaporated off in vacuo and the residue is extracted with 3×50 ml of ethyl acetate. The combined organic extracts are dried over MgSO4, the solvent is evaporated off in vacuo and the residue is purified by chromatography over 450 g of silica gel (toluene:ethyl acetate 1:4). 11.60 g (60%) of the title compound are obtained as crystals.

reactant | benzyl chloroformate | 76.28 mmol, 13.0 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 6-aminoquinoline | 69.36 mmol, 10.0 g | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | NaOH | 4N | [OH-].[Na+]
solvent | water | 160 ml | O | H2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 6-Benzyloxycarbonylamino-quinoline | 11.60 g, 60% | C(C1=CC=CC=C1)OC(=O)NC=1C=C2C=CC=NC2=CC1 | C17H14N2O2
